US08802690B2
A suspension of 5-bromo-3-cyanoindazole (3 g, 13.51 mmol), palladium dichloride 1,1′-bis(diphenylphosphino)ferrocene (1.76 g, 2.16 mmol), sodium acetate (3.32 g, 40.5 mmol), dimethylformamide (1 mL) in methanol (100 mL) was degassed, and kept under carbon monoxide (80 psi) pressure at 80° C. in a autoclave for 16 hours. The mixture was diluted with water (50 mL), filtered through Celite® bed and the filtrate was concentrated. The obtained residue was acidified with 10% citric acid solution and extracted with ethyl acetate (2×100 mL). The combined organic layers were washed with brine (50 mL), dried over anhydrous sodium sulfate and concentrated. The obtained crude product was purified by column chromatography (100-200 mesh silica gel) using 10% ethyl acetate in chloroform as eluent to afford methyl 3-cyano-1H-indazole-5-carboxylate (1.8 g, 68%) as a solid. 1HNMR (CDCl3) δ ppm 10.8 (s, 1H), 8.7 (s, 1H), 8.22 (d, 1H), 7.64 (d, 1H), 4.0 (s, 3H).

reactant | 5-bromo-3-cyanoindazole | 13.51 mmol, 3 g | BrC=1C=C2C(=NNC2=CC1)C#N | C8H4BrN3
reactant | sodium acetate | 40.5 mmol, 3.32 g | C(C)(=O)[O-].[Na+]
reactant | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium dichloride 1,1′-bis(diphenylphosphino)ferrocene | 2.16 mmol, 1.76 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2].[Pd](Cl)Cl
product | methyl 3-cyano-1H-indazole-5-carboxylate | 1.8 g, 68% | C(#N)C1=NNC2=CC=C(C=C12)C(=O)OC | C10H7N3O2
